US07501438B2
Preparation of (2-iodo-phenyl)-(3-naphthalen-1-yl-imidazo[1,5-a]pyridin-1-yl)-methanone
To a solution of 2-iodobenzoic acid (487 mg, 1.83 mmol) in 1,2-dichloroethane (20 mL) was added aluminum trichloride (266 mg, 2.00 mmol). The mixture was allowed to stir for 10 min. then a solution of 3-naphthalen-1-yl-imidazo[1,5-a]pyridine (212 mg, 0.87 mmol) in 1,2-dichloroethane (5 mL) was added. The mixture was stirred at ambient temperature for 30 min. then washed with saturated aqueous sodium bicarbonate and the organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica to yield the title compound (76 mg, 18%). 8.37 (1H), 8.18 (1H), 8.10 (2H), 7.92 (1H), 7.85 (1H), 7.71 (2H), 7.56 (5H), 7.20 (1H), 7.07 (1H); m/z (M+H)=475.1.

reactant | 2-iodobenzoic acid | 1.83 mmol, 487 mg | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | aluminum trichloride | 2.00 mmol, 266 mg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 3-naphthalen-1-yl-imidazo[1,5-a]pyridine | 0.87 mmol, 212 mg | C1(=CC=CC2=CC=CC=C12)C1=NC=C2N1C=CC=C2 | C17H12N2
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | (2-iodo-phenyl)-(3-naphthalen-1-yl-imidazo[1,5-a]pyridin-1-yl)-methanone | 76 mg, 18% | IC1=C(C=CC=C1)C(=O)C=1N=C(N2C1C=CC=C2)C2=CC=CC1=CC=CC=C21 | C24H15IN2O
